US05223516
N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-phenylalanine, isomer A
A stirred suspension of L-phenylalanine (7.60 g, 46 mmol) in 45 mL of dry acetonitrile under argon was cooled to 0° C and bis(trimethylsilyl)trifluoroacetamide (24.7 mL, 92 mmol) was added. The reaction mixture was allowed to stir and slowly warm to room temperature. After 4 hours, practically all of the amino acid was in the solution, which was light yellow in color. 2-Trifluoromethyl-3-acetylthio propionyl chloride (4.69 g, 20 mmol), dissolved in 10 mL of acetonitrile, was added dropwise over a period of about 45 minutes at 5° C. and thereafter the reaction mixture was allowed to warm to room temperature and stir overnight. The mixture was evaporated under reduced pressure to give a light yellow oil. The oil was partitioned between water (75 mL) and ethyl acetate (100 mL). The entire mixture was filtered to remove a white precipitate (phenylalanine), and the organic layer was separated. The aqueous phase was extracted once more with 50 mL of ethyl acetate. The combined ethyl acetate extract was washed with brine, dried over anhydrous magnesium sulfate and evaporated to give 20.1 g of the crude mixture of diastereomers as a light yellow solid. A 2.0 g portion of the product was flash chromatographed on silica gel (125:1 silica gel to compound), using ethyl acetate:hexanes:acetic acid, 100:100:1 as the eluent, to yield 0.370 g of the faster eluting diastereomer (isomer A) and 0.383 g of the slower eluting diastereomer (isomer B). The remaining 18.1 g of crude material was flash chromatographed similarly to yield 2.67 g of isomer A and 2.92 g of isomer B. The combined yield of isomer A was 3.04 g as a white crystalline solid, m.p. 183°-185° C., TLC Rf =0.30 (200:100:1 ethyl acetate:hexanes:acetic acid), [α]D =-98.8° (c=1.00, methanol).

reactant | L-phenylalanine | 46 mmol, 7.60 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | bis(trimethylsilyl)trifluoroacetamide | 92 mmol, 24.7 mL | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | 2-Trifluoromethyl-3-acetylthio propionyl chloride | 20 mmol, 4.69 g | FC(C(C(=S)Cl)CC(C)=O)(F)F | C6H6ClF3OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-[(Acetylthio)methyl]-3,3,3-trifluoro-1-oxopropyl]-L-phenylalanine | C(C)(=O)SCC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(F)(F)F | C15H16F3NO4S
